US07705155B2
Synthesis of (R)-3-acetyl-4-phenyl-oxazolidin-2-one
To a stirred suspension of 5.000 g (4R)-(−)-4-phenyl-2-oxazolidinone (30.03 mmol) in 100 mL THF, were added 21.0 mL n-butyllithium in hexane (1.5 M, 31.53 mmol, 1.05 eq) at 0° C. within 10 min. The resulting colorless solution was stirred for additional 50 min at 0° C. 2.57 mL acetyl chloride (36.04 mmol, 1.2 eq) were then added within 1 min. After 3.5 h the reaction was stopped by addition of 25 mL saturated aqueous NH4Cl and the mixture was extracted with 75 mL ethyl acetate. The organic phase was washed with 50 mL saturated aqueous NaHCO3 and with 50 mL brine. The solution was dried for 30 minutes over 5 g Na2SO4 and filtered. The filter cake was washed with 10 mL ethyl acetate. After removal of solvent in a rotary evaporator (40° C., 18 mbar), the crude product was obtained as white crystals (6.13 g, 100% w/w; HPLC purity 88.3% area). Further purification was achieved by dissolving in 10.6 mL ethyl acetate at reflux temperature and subsequent dropwise addition of 26.6 mL heptane. The resulting suspension was allowed to slowly cool down to 5° C. and after standing overnight, the precipitate was collected by filtration. After washing with 3 mL heptane, the title compound was obtained as white crystals (5.26 g, 25.6 mmol, 85% by weight) and in high purity (HPLC purity 96.6% area).

reactant | (4R)-(−)-4-phenyl-2-oxazolidinone | 30.03 mmol, 5.000 g | C1(=CC=CC=C1)[C@H]1NC(OC1)=O | C9H9NO2
reactant | n-butyllithium | 21.0 mL | C(CCC)[Li]
reactant | hexane | 31.53 mmol, 1.5 M, 1.05 eq | CCCCCC | C6H14
reactant | acetyl chloride | 36.04 mmol, 2.57 mL, 1.2 eq | C(C)(=O)Cl | C2H3ClO
reactant | NH4Cl | 25 mL | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (R)-3-acetyl-4-phenyl-oxazolidin-2-one | C(C)(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C11H11NO3
